US07419984B2
N*4*-(4-Chloro-phenyl)-6-(2-trifluoromethyl-phenyl)-pyrimidine-2,4-diamine
Following the method described in Example 53, 4-chloro-6-(2-trifluoromethyl-phenyl)-pyrimidin-2-ylamine and 4-chloro-phenylamine provided the title compound (28% yield). 1H NMR (DMSO-d6) δ 6.06 (s, 1H, Ar), 6.45 (s, 2H, NH2), 7.32 (d, 2H, J=8.9 Hz, Ar), 7.49 (d, 1H, J=9.0 Hz, Ar), 7.62-7.75 (m, 2H, Ar), 7.81 (d, 3H, J=8.9 Hz, Ar), 9.37 (s, 1H, NH).

reactant | 4-chloro-6-(2-trifluoromethyl-phenyl)-pyrimidin-2-ylamine | ClC1=NC(=NC(=C1)C1=C(C=CC=C1)C(F)(F)F)N | C11H7ClF3N3
reactant | 4-chloro-phenylamine | ClC1=CC=C(C=C1)N | C6H6ClN
product | N*4*-(4-Chloro-phenyl)-6-(2-trifluoromethyl-phenyl)-pyrimidine-2,4-diamine | 28% yield | ClC1=CC=C(C=C1)NC1=NC(=NC(=C1)C1=C(C=CC=C1)C(F)(F)F)N | C17H12ClF3N4
